US05646308
To 0.34 g of 6-amino-N-(2-cyanoethyl)-2,2-bis-(fluoromethyl)-2H-1-benzopyran-4-carboxamide were added methyl alcohol and a small amount of concentrated hydrochloric acid. The mixture was condensed under reduced pressure to obtain 0.35 g of 6-amino-N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-2H-1-benzopyran-4-carboxamide hydrochloride with a melting point of 202°-205° C.

reactant | 6-amino-N-(2-cyanoethyl)-2,2-bis-(fluoromethyl)-2H-1-benzopyran-4-carboxamide | 0.34 g | NC=1C=CC2=C(C(=CC(O2)(CF)CF)C(=O)NCCC#N)C1 | C15H15F2N3O2
reactant | hydrochloric acid | Cl | ClH
solvent | methyl alcohol | CO | CH4O
product | 6-amino-N-(2-cyanoethyl)-2,2-bis(fluoromethyl)-2H-1-benzopyran-4-carboxamide hydrochloride | 0.35 g | Cl.NC=1C=CC2=C(C(=CC(O2)(CF)CF)C(=O)NCCC#N)C1 | InChI=1S/C15H15F2N3O2.ClH/c16-8-15(9-17)7-12(14(21)20-5-1-4-18)11-6-10(19)2-3-13(11)22-15;/h2-3,6-7H,1,5,8-9,19H2,(H,20,21);1H
